US07951829B2
(E)-1-(2-{2-[2-(4-tert-butyl-phenyl)-vinyl]-1H-benzimidazol-5-yl}-phenyl)-ethanol (Cpd 2)
A solution of (E)-1-(2-{2-[2-(4-tert-butyl-phenyl)-vinyl]-1H-benzimidazol-5-yl}-phenyl)-ethanone Cpd 1 (0.005 g, 0.01 mmol) in ethanol (0.5 mL) was treated with NaBH4 (0.003 g, 0.08 mmol). After 3 h, the reaction mixture was applied to a preative TLC plate (2000 microns, silica gel, 20×20) and developed using EtOAc:hexanes, 1:1. The desired band was extracted and concentrated to give the title compound (0.002 g). 1H-NMR (400 MHz, CD3OD) δ (ppm) 7.69 (m, 1H) 7.62 (m, 3H) 7.50 (m, 3H) 7.41 (ddd, 2H, J=2.5 Hz, J=10.1 Hz, J=14.1 Hz) 7.32 (dt, 1H, J=1.4 Hz, J=7.5 Hz) 7.23 (m, 2H) 7.17 (d, 1H, J=16.5 Hz) 4.99 (q, 1H, J=6.3 Hz) 1.38 (s, 9H) 1.35 (d, 1.5H, J=6.1 Hz) 1.33 (d, 1.5H, J=6.1 Hz). MS (ESI, pos. ion) m/z: 397.2 (M+1).

reactant | (E)-1-(2-{2-[2-(4-tert-butyl-phenyl)-vinyl]-1H-benzimidazol-5-yl}-phenyl)-ethanone | C(C)(C)(C)C1=CC=C(C=C1)/C=C/C1=NC2=C(N1)C=CC(=C2)C2=C(C=CC=C2)C(C)=O | C27H26N2O
reactant | NaBH4 | 0.08 mmol, 0.003 g | [BH4-].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
product | (E)-1-(2-{2-[2-(4-tert-butyl-phenyl)-vinyl]-1H-benzimidazol-5-yl}-phenyl)-ethanol | 0.002 g | C(C)(C)(C)C1=CC=C(C=C1)/C=C/C1=NC2=C(N1)C=CC(=C2)C2=C(C=CC=C2)C(C)O | C27H28N2O
